US05686424
Using the procedure described in Example 5, a solution of L-proline-L-isoleucine benzylamide (148 mg, 0.47 mmol), and triethylamine (0.13 mL, 0.93 mmol, 2.0 eq) in THF (10 mL), was treated with 234 mg (1.50 mmol) of 2-(alpha-chloroacyl)pyridine (prepared from picolinic acid, using the procedure described in example 1) to provide 20 mg, (10%) of L-isoleucine, N-[1-(2-pyrid-2-yl-2-oxoethyl)-L-prolyl] benzylamide.

reactant | L-proline L-isoleucine benzylamide | 0.47 mmol, 148 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 0.93 mmol, 0.13 mL, 2.0 eq | C(C)N(CC)CC | C6H15N
reactant | picolinic acid | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-pyrid-2-yl-2-oxoethyl)-L-prolyl] benzylamide | 10% | N1=C(C=CC=C1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C25H32N4O3
